US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid methyl ester (5.75 g) and potassium carbonate (4.91 g), the objective (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid (5.29 g) was obtained as colorless crystals.

reactant | (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid methyl ester | 5.75 g | COC(=O)C1=CC=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C | C16H21NO4S
reactant | potassium carbonate | 4.91 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid | 5.29 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)O | C15H19NO4S
